US05225402
To a solution of 3,4-dihydrocarbostyril (3 g) in N-methylpyrrolidone (30 ml) are added p-iodobenzoic acid (5.58 g), copper (0.3 g) and potassium carbonate (3.03 g) and the mixture is stirred at 150° C. for 4 hours. An aqueous sodium hydroxide solution is added to the reaction mixture and the mixture is washed with dichloromethane. The aqueous layer is made acidic with concentrated hydrochloric acid and then extracted with diethyl ether and the extract is dried over magnesium sulfate. After the solvent is distilled off under reduced pressure, methanol (50 ml) is added to the residue and thionyl chloride (10 ml) is slowly added to the solution while stirring with ice-cooling. After completion of dropwise addition, the mixture is refluxed for 0.5 hour. After methanol is distilled off under reduced pressure, water is added to the residue and the solution is extracted with dichloromethane and dried over magnesium sulfate. The solvent is distilled off under reduced pressure and the resulting residue is purified by silica gel column chromatography to give 1-(4-methoxycarbonylphenyl)-3,4-dihydrocarbostyril (1.44 g).

reactant | 3,4-dihydrocarbostyril | 3 g | N1C(=O)CCC2=CC=CC=C12 | C9H9NO
reactant | p-iodobenzoic acid | 5.58 g | C1=CC(=CC=C1C(=O)O)I | C7H5IO2
reactant | potassium carbonate | 3.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N-methylpyrrolidone | 30 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper | 0.3 g | [Cu] | Cu
product | 1-(4-methoxycarbonylphenyl)-3,4-dihydrocarbostyril | 1.44 g | COC(=O)C1=CC=C(C=C1)N1C(=O)CCC2=CC=CC=C12 | C17H15NO3
